### PR TITLE
[Merged by Bors] - feat(Algebra/DirectSum/Decomposition): degree of a non-zero homogeneous element is unique

### PR DESCRIPTION
**Pull request by jjaassoonn**
if $x \in M = \bigoplus M_i$ is not $0$ such that $x \in M_i$ and $x \in M_j$, then $i = j$

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Decomposition.lean [hunk 1]
```diff
@@ -143,6 +143,15 @@ theorem decompose_of_mem_ne {x : M} {i j : ι} (hx : x ∈ ℳ i) (hij : i ≠ j
...
 #align direct_sum.decompose_of_mem_ne DirectSum.decompose_of_mem_ne
 
+theorem degree_eq_of_mem_mem {x : M} {i j : ι} (hxi : x ∈ ℳ i) (hxj : x ∈ ℳ j) (hx : x ≠ 0) :
+    i = j := by
+  classical
+  have eq : (of (fun i : ι ↦ ℳ i) i (⟨x, hxi⟩ : ℳ i)).support =
+    (of (fun i : ι ↦ ℳ i) j (⟨x, hxj⟩ : ℳ j)).support
+  · rw [← decompose_coe, ← decompose_coe]
+  rwa [support_of, support_of, Finset.singleton_inj] at eq <;>
+  exact fun r ↦ hx <| Subtype.ext_iff_val.mp r
```
Comment (alreadydone) [inline Mathlib/Algebra/DirectSum/Decomposition.lean:153]:
```suggestion
  contrapose! hx; rw [← decompose_of_mem_same ℳ hxj, decompose_of_mem_ne ℳ hxi hx]
```

**Review by alreadydone — APPROVED** [review]

**Comment by alreadydone** [comment]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
